US05652250
N-phenyl β-(4-hydroxy-5,6,7,8-tetrahydronaphth-1-yl)-α-cyanoacrylamide
To a stirred solution of N-phenyl β-(4-methoxy-5,6,7,8-tetrahydronaphth-1-yl)-α-cyanoacrylamide (3.324 g, 0.01 mol) in anhydrous dichloromethane (100 ml) was added at -78° C. under nitrogen, over a period of 20 min, a 1M boron tribromide solution in dichloromethane (30 ml, 0.030 mol). The resulting mixture was stirred for another 1 h at -78° C. and then allowed to warm up to room temperature. After stirring for 1.5 h at room temperature the mixture was cooled to -10° C. and then quenched by dropwise addition of water (100 ml) over a 10-min period. After addition of ethyl acetate (100 ml) the organic layer was separated, washed with water, dried over Na2SO4 and evaporated under vacuum to dryness. The residue was crystallized from ethanol thus giving pure title compound in 65% yield (2.070 g).

reactant | N-phenyl β-(4-methoxy-5,6,7,8-tetrahydronaphth-1-yl)-α-cyanoacrylamide | 0.01 mol, 3.324 g | C1(=CC=CC=C1)NC(C(=CC1=CC=C(C=2CCCCC12)OC)C#N)=O | C21H20N2O2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.030 mol, 30 ml | ClCCl | CH2Cl2
product | N-phenyl β-(4-hydroxy-5,6,7,8-tetrahydronaphth-1-yl)-α-cyanoacrylamide | 65% yield | C1(=CC=CC=C1)NC(C(=CC1=CC=C(C=2CCCCC12)O)C#N)=O | C20H18N2O2
